US08084448B2
A. (E)-3-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-acrylic Acid Methyl Ester
The title compound is prepared from 5-(2-benzyloxy-4-iodo-phenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one and methyl acrylate analogous to Example 97, step A.

reactant | 5-(2-benzyloxy-4-iodo-phenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
product | (E)-3-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-acrylic Acid Methyl Ester | COC(\C=C\C1=CC(=C(C=C1)N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)OCC1=CC=CC=C1)=O | C24H30N2O6SSi
